US06894061B2
4-{[(S)-6-Phenylphenanthridin-5 (6H)-yl]sulfonyl}phenol*
The title compound was prepared from (S)-5-[(4-methoxyphenyl)sulfonyl]-6-phenyl-5,6-dihydrophenanthridine* (1.35 g, 3.16 mmol), cyclohexene (6.16 g, 75 mmol), and 1.0 M boron tribromide in dichloromethane (20 mL, 20 mmol) according to the procedure and in the same manner as described in Example 1, step b; and yielded, after chromatographic purification and crystallization from diethyl ether-hexane, 4-{[(S)-6-phenylphenanthridin-5(6H)-yl]sulfonyl}phenol* (0.627 g, 1.52 mmol, 48%) as a homogeneous, colorless, crystalline, single enantiomer*, m.p. 210-212° C.;

reactant | (S)-5-[(4-methoxyphenyl)sulfonyl]-6-phenyl-5,6-dihydrophenanthridine | COC1=CC=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2[C@@H]1C1=CC=CC=C1 | C26H21NO3S
reactant | cyclohexene | 75 mmol, 6.16 g | C1=CCCCC1 | C6H10
reactant | boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 20 mmol, 20 mL | ClCCl | CH2Cl2
product | 4-{[(S)-6-Phenylphenanthridin-5 (6H)-yl]sulfonyl}phenol | C1(=CC=CC=C1)[C@@H]1N(C=2C=CC=CC2C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)O | C25H19NO3S
